US09315521B2
To a solution of (2,4-dichloro-1,3-thiazol-5-yl)methanol (850 mg, 4.6 mmol) in anhydrous dichloromethane (40 mL) was added dropwise phosphorus tribromide (850 μL, 9.2 mmol). The mixture was stirred at room temperature for 3 hours. The solvent was evaporated. The residue was dried in vacuo, affording 5-(bromomethyl)-2,4-dichloro-1,3-thiazole. The product was used without further purification.

reactant | (2,4-dichloro-1,3-thiazol-5-yl)methanol | 4.6 mmol, 850 mg | ClC=1SC(=C(N1)Cl)CO | C4H3Cl2NOS
reactant | phosphorus tribromide | 9.2 mmol, 850 μL | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 5-(bromomethyl)-2,4-dichloro-1,3-thiazole | BrCC1=C(N=C(S1)Cl)Cl | C4H2BrCl2NS
